US06979695B2
(4E)-5-(5-Bromo-3-pyridyl)-4-penten-2-ol
A mixture of 3,5-dibromopyridine (23.60 g, 100.0 mmol), 4-penten-2-ol (10.8 g, 125.0 mmol), palladium(II) acetate (230 mg, 1.02 mmol), tri-o-tolylphosphine (1.20 g, 3.94 mmol), triethylamine (29.7 mL, 213.45 mmol), and acetonitrile (40 mL) were heated in a sealed glass tube at 140° C. for 14 h. The reaction mixture was cooled to ambient temperature, diluted with water, and extracted with chloroform (3×200 mL). The combined chloroform extracts were dried over sodium sulfate and filtered. Removal of solvent by rotary evaporation, followed by column chromatography over silica gel eluting with acetone-chloroform (1:9, v/v) furnished 8.10 g (34.0%) of a pale-yellow oil.

reactant | 3,5-dibromopyridine | 100.0 mmol, 23.60 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 4-penten-2-ol | 125.0 mmol, 10.8 g | CC(CC=C)O | C5H10O
reactant | tri-o-tolylphosphine | 3.94 mmol, 1.20 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 213.45 mmol, 29.7 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
catalyst | palladium(II) acetate | 1.02 mmol, 230 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | (4E)-5-(5-Bromo-3-pyridyl)-4-penten-2-ol | 8.10 g, 34.0% | BrC=1C=C(C=NC1)/C=C/CC(C)O | C10H12BrNO
